US04258196
Following the above procedure, but using 2'-(methoxymethyl)-2-chloroacetanilide as the sec-amide starting material and chloromethyl methyl ether as the alkylating agent, the product 2'-(methoxymethyl)-N-(methoxymethyl)-2-chloroacetanilide was obtained.

reactant | 2'-(methoxymethyl)-2-chloroacetanilide | COCC1=C(NC(CCl)=O)C=CC=C1 | C10H12ClNO2
reactant | chloromethyl methyl ether | COCCl | C2H5ClO
product | 2'-(methoxymethyl)-N-(methoxymethyl)-2-chloroacetanilide | COCC1=C(N(C(CCl)=O)COC)C=CC=C1 | C12H16ClNO3
